US08124610B2
1,3-di-tert-butyl-1H-pyrazol-5-amine
A solution of pivaloylacetonitrile (300 mg, 2 mmol, 1.0 equiv), triethylamine (1.16 mL, 8.3 mmol, 3.2 equiv), and tert-butylhydrazine hydrochloride (1.03 g, 8.3 mmol, 3.2 equiv) in 10 mL of ethanol was heated at 100° C. in a sealed tube. After 4 days, the reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was purified via automated flash chromatography (40 g SiO2, ethyl acetate to 20% methanol in ethyl acetate) to afford the product as an off-white solid (123 mg, 20%).

reactant | pivaloylacetonitrile | 2 mmol, 300 mg, 1.0 equiv | C(C(C)(C)C)(=O)CC#N | C7H11NO
reactant | triethylamine | 8.3 mmol, 1.16 mL, 3.2 equiv | C(C)N(CC)CC | C6H15N
reactant | tert-butylhydrazine hydrochloride | 8.3 mmol, 1.03 g, 3.2 equiv | Cl.C(C)(C)(C)NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1,3-di-tert-butyl-1H-pyrazol-5-amine | 123 mg, 20% | C(C)(C)(C)N1N=C(C=C1N)C(C)(C)C | C11H21N3
